US04668437
Preparation of 4,9(11)-pregnadiene-3,20-dione-21-ol benzoate
The process described for the preparation of 4-pregnene-3,20-dione-21-ol benzoate (see the further-conversion of the product described in Example 4) is followed by using 4.97 g (9.7 mmoles) of 21-benzoyloxy-4,9(11)-pregnadiene-3,20-dione-3-ethylenedithioacetal as starting material [prepared as described in the preceding Step (a)], except that the crude product is not subjected to chromatography, but it is recrystallized from ethyl acetate under purifying with activated carbon to give 1.8 g (42% yield) of the aimed product, m.p.: 176°-177° C., [α]D =+175.1° (c=1 in chloroform).

reactant | 4-pregnene-3,20-dione-21-ol benzoate | C(C1=CC=CC=C1)(=O)OCC([C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=O | C28H34O4
reactant | 21-benzoyloxy-4,9(11)-pregnadiene-3,20-dione-3-ethylenedithioacetal | 9.7 mmoles, 4.97 g | C1CSC2(C=C3CC[C@H]4[C@@H]5CC[C@H](C(COC(C6=CC=CC=C6)=O)=O)[C@]5(CC=C4[C@]3(CC2)C)C)S1 | C30H36O3S2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4,9(11)-pregnadiene-3,20-dione-21-ol benzoate | 1.8 g, 42% yield | C(C1=CC=CC=C1)(=O)OCC([C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O)=O | C28H32O4
